US08648033B2
2-methoxy-4-methylphenol (250 mmol) was dissolved in dry dichoromethane (500 ml) with pyridine (392 mmol) and DMAP (N,N-dimethyl-4-aminopyridine, 4.26 mmol). Methyl chloroformate (317 mmol) was added slowly to this solution and the reaction was stirred at room temperature for 3 hours. The reaction mixture was then poured onto a 2M HCl solution (120 ml), and the aqueous layer was extracted twice with dichloromethane (50 ml). Then the combined organic layers were washed twice with water (100 ml), dried over MgSO4 and filtered. The solvent was evaporated and the residue distilled under reduced pressure (120-140° C., 0.4 mbar) to give 38 g (186 mmol, 74% yield) of pure 2-methoxy-4-methyl-phenyl methyl carbonate.

reactant | 2-methoxy-4-methylphenol | 250 mmol | COC1=C(C=CC(=C1)C)O | C8H10O2
reactant | pyridine | 392 mmol | N1=CC=CC=C1 | C5H5N
reactant | Methyl chloroformate | 317 mmol | ClC(=O)OC | C2H3ClO2
reactant | HCl | 2M, 120 ml | Cl | ClH
solvent | dichoromethane | 500 ml | ClCCl | CH2Cl2
catalyst | DMAP | 4.26 mmol | CN(C)C=1C=CN=CC1 | C7H10N2
product | 2-methoxy-4-methyl-phenyl methyl carbonate | 186 mmol, 38 g, 74% yield | C(OC1=C(C=C(C=C1)C)OC)(OC)=O | C10H12O4
